US08053447B2
4-[4-(Cyclopropanecarbonyl-amino)-cyclohexyloxy]-benzoic acid
To a solution of 4-[4-(cyclopropanecarbonylamino)cyclohexyloxy]benzoic acid ethyl ester (4.75 g, 14.3 mmol) in EtOH (30 mL) and THF (10 mL) was added NaOH (2.29 g, 57.3 mmol) in 10 ml of water. Stirring was continued at ambient for 17 hrs. The solvents were removed under vacuum, water (50 mL) was added and the whole extracted with EtOAc. The aqueous layer was acidified to pH ˜2 with 2N HCl and the white precipitate obtained was filtered off and washed with hexane affording 4.0 g (92%) of 4-[4-(cyclopropanecarbonyl-amino)-cyclohexyloxy]-benzoic acid as a solid.

reactant | 4-[4-(cyclopropanecarbonylamino)cyclohexyloxy]benzoic acid ethyl ester | 14.3 mmol, 4.75 g | C(C)OC(C1=CC=C(C=C1)OC1CCC(CC1)NC(=O)C1CC1)=O | C19H25NO4
reactant | NaOH | 57.3 mmol, 2.29 g | [OH-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-[4-(Cyclopropanecarbonyl-amino)-cyclohexyloxy]-benzoic acid | C1(CC1)C(=O)NC1CCC(CC1)OC1=CC=C(C(=O)O)C=C1 | C17H21NO4
